US04120727
4:1 Copolymer of acrylamide/β-cyanoethyl acrylate
7.11 g of acrylamide, 3.13 g of β-cyanoethyl acrylate (commercially available from Monomer-Polymer, Borden Chemical Co., New York, New York, under the designation #7437) and 0.01 g of 2,2'-azobis-[2-methylpropionitrile] catalyst were dissolved in 80 ml of dimethylformamide. This solution was polymerized under N2 in a sealed tube at 65° C. for 12 hours. A white viscous solution resulted which produced a precipitate in acetone. The precipitate was collected and dried under vacuum at 50° C. for 12 hours to yield a water-soluble white powder.

reactant | acrylamide | 7.11 g | C(C=C)(=O)N | C3H5NO
reactant | β-cyanoethyl acrylate | 3.13 g | C(C=C)(=O)OCCC#N | C6H7NO2
catalyst | 2,2'-azobis-[2-methylpropionitrile] | 0.01 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | acrylamide β-cyanoethyl acrylate | C(C=C)(=O)N.C(C=C)(=O)OCCC#N | InChI=1S/C6H7NO2.C3H5NO/c1-2-6(8)9-5-3-4-7;1-2-3(4)5/h2H,1,3,5H2;2H,1H2,(H2,4,5)
